US07893285B2
Formation of DDAS and Cetyl Stearate
Example 2 was repeated but for the sequence of addition of glycerol monolaurate. Instead of being added with cetyl alcohol, an equal amount of glycerol monolaurate utilized in Example 2 was added after the addition of the TEA.

reactant | glycerol monolaurate | C(CCCCCCCCCCC)(=O)OCC(O)CO | C15H30O4
reactant | cetyl alcohol | C(CCCCCCCCCCCCCCC)O | C16H34O
product | Cetyl Stearate | C(CCCCCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCCCCC | C34H68O2
